US05756747
A mixture of 67.8 g (0.281 mole) of beta,beta-dimethyl-1H-imidazo[4,5-c]quinoline-1-ethanol and 170 mL of acetic anhydride was heated at about 100° C. for three hours. To this solution was added 1700 mL of methanol and the solution was refluxed for about 0.5 hour. The solution was evaporated in vacuo and the residue was basified with a saturated sodium bicarbonate solution. Scratching provided an off-white solid which was separated by filtration, washed with water and dissolved in chloroform. The solution was dried over magnesium sulfate and concentrated to a solid residue. The solid was dissolved in 750 mL of chloroform. To this solution was added 67.3 g (0.312 mole) of meta-chloroperbenzoic acid. The mixture was stirred for three hours, evaporated, then washed with saturated sodium bicarbonate solution. Sodium chloride was added, then the mixture was extracted with chloroform. The organic layer was then dried over magnesium sulfate and concentrated by evaporation in vacuo to provide 1-(2-acetoxy-1,1-dimethylethyl)-1H-imidazo[4,5-c]quinoline-5-oxide.

reactant | beta,beta-dimethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | 0.281 mole, 67.8 g | CC(CO)(N1C=NC=2C=NC=3C=CC=CC3C21)C | C14H15N3O
reactant | acetic anhydride | 170 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | meta-chloroperbenzoic acid | 0.312 mole, 67.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methanol | 1700 mL | CO | CH4O
product | 1-(2-acetoxy-1,1-dimethylethyl)-1H-imidazo[4,5-c]quinoline-5-oxide | C(C)(=O)OCC(C)(C)N1C=NC=2C=[N+](C=3C=CC=CC3C21)[O-] | C16H17N3O3
